US07858647B2
21.4 mg 4-Methoxy-benzoyl chloride and 50 mg 4-(2-Amino-ethyl)-N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-benzene sulfonamide hydrochloride were dissolved in 2 ml dichloromethane and stirred at room temperature for two hours. The reaction mixture was diluted by addition of 50 ml dichloromethane, washed three times with portions of 30 ml water and then dried over MgSO4. The solvent was removed in vacuo. The residue was purified by RP-HPLC to obtain 21.4 mg N-{2-[4-(5-isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-ethyl}-4-methoxy-benzamide.

reactant | 4-Methoxy-benzoyl chloride | 21.4 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 4-(2-Amino-ethyl)-N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-benzene sulfonamide hydrochloride | 50 mg | Cl.NCCC1=CC=C(C=C1)S(=O)(=O)NC=1SC(=NN1)C(C)C
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-{2-[4-(5-isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-ethyl}-4-methoxy-benzamide | 21.4 mg | C(C)(C)C1=NN=C(S1)NS(=O)(=O)C1=CC=C(C=C1)CCNC(C1=CC=C(C=C1)OC)=O | C21H24N4O4S2
